US08183242B2
To a flask was added 4-((4-methylpiperazin-1-yl)methyl)benzoic acid (3.2 g), dicyclohexylcarbodiimide (3.0 g), N-(5-amino-2-methylpyridin-3-yl)-4-(3-pyridyl)pyrimidin-2-amine (3.0 g) and CH2Cl2 (100 mL) and the reaction mixture was stirred at room temperature overnight. The reaction mixture was filtrated and the filtrate was washed with water (100 mL×2), dried, filtrated, concentrated, and purified through column chromatography to give 4-[(4-methylpiperazin-1-yl)methyl]-N-{6-methyl-5-[(4-(pyrid-3-yl)pyrimid-2-yl)amino]pyrid-3-yl}benzamide (4.0 g).

reactant | 4-((4-methylpiperazin-1-yl)methyl)benzoic acid | 3.2 g | CN1CCN(CC1)CC1=CC=C(C(=O)O)C=C1 | C13H18N2O2
reactant | dicyclohexylcarbodiimide | 3.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-(5-amino-2-methylpyridin-3-yl)-4-(3-pyridyl)pyrimidin-2-amine | 3.0 g | NC=1C=C(C(=NC1)C)NC1=NC=CC(=N1)C=1C=NC=CC1 | C15H14N6
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-[(4-methylpiperazin-1-yl)methyl]-N-{6-methyl-5-[(4-(pyrid-3-yl)pyrimid-2-yl)amino]pyrid-3-yl}benzamide | 4.0 g | CN1CCN(CC1)CC1=CC=C(C(=O)NC=2C=NC(=C(C2)NC2=NC=CC(=N2)C=2C=NC=CC2)C)C=C1 | C28H30N8O
